US04124590
4-Chloro-5-di-n-butylsulfamylbenzoic Acid
To a solution of 3.9 g. (0.03 mole) of di-n-butylamine in 15 ml. of methylene chloride is added 2.5 g. (0.01 mole) of 4-chloro-5-chlorosulfonylbenzoic acid (J. Pharm. Pharmacol., 683 (1962), and the resulting reaction mixture allowed to stir at room temperature for 3 hrs. The solvent is removed under reduced pressure and the residue partitioned between 1N sodium hydroxide and diethyl ether. The aqueous phase is separated, acidified with 12N hydrochloric acid and the precipitated solid filtered and dried, 3.0 g., m.p. 93°-96° C. Recrystallization from ether-hexane provides the pure product, 2.5 g., m.p. 94.5°-96.5° C.

reactant | di-n-butylamine | 0.03 mole | C(CCC)NCCCC | C8H19N
reactant | 4-chloro-5-chlorosulfonylbenzoic acid | 0.01 mole | ClC1=CC=C(C(=O)O)C=C1S(=O)(=O)Cl | C7H4Cl2O4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Chloro-5-di-n-butylsulfamylbenzoic Acid | ClC1=CC=C(C(=O)O)C=C1S(N(CCCC)CCCC)(=O)=O | C15H22ClNO4S
